US07498338B2
N-Methyl-2-{2-[(2S)-oxiran-2-ylmethoxy]phenyl}acetamide
A mixture of 2-(2-hydroxyphenyl)-N-methylacetamide (1.00 g, 6.1 mmol) prepared according to a known procedure (Bernd, Peschke, Eur. J. Med. Chem., 2000, 35, 599-618), (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (1.58 g, 6.1 mmol) and cesium carbonate (2.37 g, 7.3 mmol) in 1-methylpyrrolidin-2-one (15 ml) was stirred at room temperature overnight. The mixture was diluted with water and extracted with ethyl acetate, the combined organic layers were dried with sodium sulphate, volatiles were removed in vacuo. The residue was purified by recrystillaziation from ethyl acetate/heptane; (390 mg) of the subtitle compound was obtained.

reactant | 2-(2-hydroxyphenyl)-N-methylacetamide | 6.1 mmol, 1.00 g | OC1=C(C=CC=C1)CC(=O)NC | C9H11NO2
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 6.1 mmol, 1.58 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | cesium carbonate | 7.3 mmol, 2.37 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1-methylpyrrolidin-2-one | 15 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | N-Methyl-2-{2-[(2S)-oxiran-2-ylmethoxy]phenyl}acetamide | 390 mg | CNC(CC1=C(C=CC=C1)OC[C@H]1OC1)=O | C12H15NO3
